US05612377
1-Hydroxy-1-(1-methylethyl)-3-(2,4,5-trimethylphenyl)urea
A solution of N-isopropylhydroxylamine hydrochloride (1.85 g, 16.5 mmol) in water (5 mL) was combined with diethyl ether (50 mL) then cooled in an ice bath. A solution of sodium hydroxide (0.72 g, 18 mmol) in water (10 mL) was added over a 10 minute period. The reaction mixture was stirred for 10 minutes then 2,4,5-trimethylphenyl isocyanate (2.42 g, 15 mmol) was added as a solid. The reaction mixture was stirred at ambient temperature for 18 hours. A white solid was isolated by filtration then recrystallized from hexanes/ethyl acetate to provide 2.4 g of the desired product as a white crystalline solid, m.p. 176.2°-176.8° C. Analysis: Calculated for C13H20N2O2 : %C, 66.07; %H, 8.53; %N, 11.85; Found: %C, 65.85; %H, 8.35; %N, 11.68.

reactant | N-isopropylhydroxylamine hydrochloride | 16.5 mmol, 1.85 g | Cl.C(C)(C)NO
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
reactant | sodium hydroxide | 18 mmol, 0.72 g | [OH-].[Na+]
reactant | 2,4,5-trimethylphenyl isocyanate | 15 mmol, 2.42 g | CC1=C(C=C(C(=C1)C)C)N=C=O | C10H11NO
solvent | water | 5 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 1-Hydroxy-1-(1-methylethyl)-3-(2,4,5-trimethylphenyl)urea | 2.4 g | ON(C(=O)NC1=C(C=C(C(=C1)C)C)C)C(C)C | C13H20N2O2
